US07893267B2
1.297 g (7 mmol) of copper acetate was added to a solution of 923 mg (3.5 mmol) of 1-(2-methylsulfanyl-ethyl)-3,4-dihydro-isoquinoline-3-carboxylic acid methyl ester in 10 mL of dichloromethane, stirring at room temperature overnight. This reaction mixture was concentrated and purified by column chromatography on silica gel to give 266 mg (29%) of 1-(2-methylsulfanyl-ethyl)-isoquinoline-3-carboxylic acid methyl ester. LCMS: 262 (M+1)+.

reactant | 1-(2-methylsulfanyl-ethyl)-3,4-dihydro-isoquinoline-3-carboxylic acid methyl ester | 3.5 mmol, 923 mg | COC(=O)C1N=C(C2=CC=CC=C2C1)CCSC | C14H17NO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | copper acetate | 7 mmol, 1.297 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(2-methylsulfanyl-ethyl)-isoquinoline-3-carboxylic acid methyl ester | 266 mg, 29% | COC(=O)C=1N=C(C2=CC=CC=C2C1)CCSC | C14H15NO2S
